US07030128B2
7-(1-Methyl-1-triethylsilanyloxyethyl)-3-[2-(3-nitrophenyl)-pyrimidin-4-yl]imidazo[1,2-α]pyrimidine in EtOH (10 ml) was treated with conc. HCl (10 drops) and stirred at room temperature for 12 h. The crude mixture was poured onto an SCX cartridge (2 gram) and washed firstly with MeOH (20 ml) to remove the impurities and then 2N NH3 in MeOH (20 ml) to elute the desired compound. Removal of the solvent under reduced pressure afforded 2-{3-[2-(3-nitrophenyl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol (66 mg, 28%): 1H NMR (360 MHz, CDCl3) δ 10.31 (1H, d, J 7.3), 9.31 (1H, t, J 1.8), 8.83 (1H, d, J 5.5), 8.80 (1H, d, J 8.0), 8.55 (1H, s), 8.40 (1H, d, J 8.0), 7.75 (1H, t, J 8.0), 7.66 (1H, d, J 5.5), 7.40 (1H, d, J 7.3), 1.68 (6H, s); m/z (ES+) 377 (M+H+).

reactant | 7-(1-Methyl-1-triethylsilanyloxyethyl)-3-[2-(3-nitrophenyl)-pyrimidin-4-yl]imidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)C2=NC(=NC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C25H30N6O3Si
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | HCl | 10 drops | Cl | ClH
product | 2-{3-[2-(3-nitrophenyl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol | 66 mg, 28% | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C19H16N6O3
